US05840716
Zinc powder (3.1 g) was added to a suspension of p-trifluoromethoxybenzenesulfonyl chloride (1.36 ml) in concentrated sulfuric acid (3.4 ml) and water (20 ml), and the suspension was stirred at 0° C. for 18 hours and heated under reflux for 6 hours. The mixture was added with ethyl acetate, washed with water, saturated aqueous solution of sodium hydrogen carbonate, and saturated brine, and then concentrated under reduced pressure to give p-trifluoromethoxybenzenethiol (0.73 g, 47%).

reactant | p-trifluoromethoxybenzenesulfonyl chloride | 1.36 ml | FC(OC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sulfuric acid | 3.4 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 20 ml | O | H2O
catalyst | Zinc | 3.1 g | [Zn] | Zn
product | p-trifluoromethoxybenzenethiol | 0.73 g, 47% | FC(OC1=CC=C(C=C1)S)(F)F | C7H5F3OS
